### PR TITLE
[Merged by Bors] - Add(NumberTheory/ModularForms/Identities): periods of modular forms.

### PR DESCRIPTION
**Pull request by CBirkbeck**
Add some basic results about `ModularGroup.T` relating to slash invariant forms of level Gamma(N) and moving elements into verticalStrips. Needed for #12456
 
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/Identities.lean [hunk 1]
```diff
@@ -0,0 +1,30 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Chris Birkbeck
+-/
+
+import Mathlib.NumberTheory.ModularForms.SlashInvariantForms
+import Mathlib.NumberTheory.ModularForms.CongruenceSubgroups
+
+/-!
+# Indentities of ModularForms and SlahInvariantForms
+Collection of useful indentities of modular forms.
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ModularForms/Identities.lean:12]: "identities" × 2

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 2]
```diff
@@ -91,6 +91,23 @@ lemma subset_verticalStrip_of_isCompact {K : Set ℍ} (hK : IsCompact K) :
   obtain ⟨v, _, hv⟩ := hK.exists_isMinOn hne continuous_im.continuousOn
   exact ⟨|re u|, im v, v.im_pos, fun k hk ↦ ⟨isMaxOn_iff.mp hu _ hk, isMinOn_iff.mp hv _ hk⟩⟩
 
+theorem ModularGroup_T_zpow_mem_verticalStrip (z : ℍ) (N : ℕ) (hn : 0 < N) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean:94]:
```suggestion
theorem ModularGroup_T_zpow_mem_verticalStrip (z : ℍ) {N : ℕ} (hn : 0 < N) :
```

File: Mathlib/NumberTheory/ModularForms/Identities.lean [hunk 3]
```diff
@@ -0,0 +1,30 @@
...
+Copyright (c) 2024 Chris Birkbeck. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Chris Birkbeck
+-/
+
+import Mathlib.NumberTheory.ModularForms.SlashInvariantForms
+import Mathlib.NumberTheory.ModularForms.CongruenceSubgroups
+
+/-!
+# Indentities of ModularForms and SlahInvariantForms
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ModularForms/Identities.lean:11]: "Slash"

File: Mathlib/NumberTheory/ModularForms/Identities.lean [hunk 4]
```diff
@@ -0,0 +1,30 @@
...
+Collection of useful indentities of modular forms.
+-/
+
+noncomputable section
+
+open ModularForm UpperHalfPlane Matrix
+
+namespace SlashInvariantForm
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ModularForms/Identities.lean:19]: It's not strictly necessary, but I think it's best practice to close the namespace again at the end of the file

File: Mathlib/NumberTheory/ModularForms/Identities.lean [hunk 5]
```diff
@@ -0,0 +1,30 @@
...
+
+theorem SIF_lvl_N_periodic (N : ℕ) (k : ℤ) (f : SlashInvariantForm (Gamma N) k) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ModularForms/Identities.lean:21]: Do you need SIF in the name if you're already in the namespace?

File: Mathlib/NumberTheory/ModularForms/Identities.lean [hunk 6]
```diff
@@ -0,0 +1,30 @@
...
+    ∀ (z : ℍ) (n : ℤ), f (((ModularGroup.T ^ (N * n))) • z) = f z := by
+  intro z n
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ModularForms/Identities.lean:23]: Suggest making z and n arguments instead

**Review by Ruben-VandeVelde — COMMENTED** [review]
I can't really judge the mathematics, but the lean seems fine

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

(preferably a maintainer who knows about modular forms)

File: Mathlib/NumberTheory/ModularForms/Identities.lean [hunk 7]
```diff
@@ -0,0 +1,31 @@
...
+Collection of useful identities of modular forms.
+-/
+
+noncomputable section
+
+open ModularForm UpperHalfPlane Matrix
+
+namespace SlashInvariantForm
+
+theorem lvl_N_periodic (N : ℕ) (k : ℤ) (f : SlashInvariantForm (Gamma N) k) (z : ℍ) (n : ℤ):
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ModularForms/Identities.lean:21]:
```suggestion
theorem lvl_N_periodic (N : ℕ) (k : ℤ) (f : SlashInvariantForm (Gamma N) k) (z : ℍ) (n : ℤ) :
```

Comment (jcommelin) [reply Mathlib/NumberTheory/ModularForms/Identities.lean:21]: I don't really like the name `lvl_N_periodic`, since it refers to the variable `N`. (Just like I'm not a fan of the name `padic_int`.)

This name suggest that you maybe want a definition of what it means to be `LevelPeriodic`? And then you can prove with this lemma that `SlashInvariantForm`s satisfy that predicate?

File: Mathlib/NumberTheory/ModularForms/CongruenceSubgroups.lean [hunk 8]
```diff
@@ -88,6 +88,14 @@ theorem Gamma_zero_bot : Gamma 0 = ⊥ := by
     simp [h]
 #align Gamma_zero_bot Gamma_zero_bot
 
+lemma ModularGroup_T_pow_mem_Gamma (N M : ℤ) (hNM : N ∣ M) :
+    (ModularGroup.T ^ M) ∈ _root_.Gamma (Int.natAbs N) := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ModularForms/CongruenceSubgroups.lean:92]: Hmm, should `Gamma` really be in the root namespace? I think it should be namespaced. (But not in this PR.)

File: Mathlib/NumberTheory/ModularForms/Identities.lean (hunk 7 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Identities.lean]: Hmm good point, so `LevelPeriodic` should be the `width` period, but we dont yet have the widths of cusps ( because we dont have cusps yet). How about I put width in the name (instead of N) for now and once we have cusps I can update the names if needed as this will be a special case of a more general result for any level?

File: Mathlib/NumberTheory/ModularForms/CongruenceSubgroups.lean (hunk 8 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/CongruenceSubgroups.lean:92]: Ah yes I agree, I'll make a new PR after this and put it in a namespace.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
